US05646308
Using 2,2-bis(fluoromethyl)-6-iodo-2H-1-benzopyran-4-carboxylic acid ethyl ester and potassium pentafluoropropionate, an oily product of 6-pentafluoroethyl-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxylic acid ethyl ester was obtained according to the same method as in Example 23 (4).

reactant | 2,2-bis(fluoromethyl)-6-iodo-2H-1-benzopyran-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(OC2=C1C=C(C=C2)I)(CF)CF | C14H13F2IO3
reactant | potassium pentafluoropropionate | FC(C(C(=O)[O-])(F)F)(F)F.[K+]
product | 6-pentafluoroethyl-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(OC2=C1C=C(C=C2)C(C(F)(F)F)(F)F)(CF)CF | C16H13F7O3
